* C:\users\chesito\Mis Documentos\Documentos\potencia\lab1\diodo2_conmutacion.asc
V1 vi 0 SINE(0 9 1MEG)
R1 vo 0 1k pwr=0.5
D1 vi vo 1N4148
.model D D
.lib C:\users\chesito\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
.tran 0 2.5u 0 1u
.backanno
.end
